US04370329
8.3 g of 3,4,5-trimethoxybenzyl chloride and 3.5 g of N-(4-hydroxyphenyl)-piperazine and 3.5 g of K2CO3 are reacted and processed according to example 2. 4.2 g of N-(3,4,5-trimethoxy-benzyl)-N'-(4-hydroxyphenyl)-piperazine hydrochloride is obtained.

reactant | 3,4,5-trimethoxybenzyl chloride | 8.3 g | COC=1C=C(CCl)C=C(C1OC)OC | C10H13ClO3
reactant | N-(4-hydroxyphenyl)-piperazine | 3.5 g | OC1=CC=C(C=C1)N1CCNCC1 | C10H14N2O
reactant | K2CO3 | 3.5 g | C(=O)([O-])[O-].[K+].[K+]
product | N-(3,4,5-trimethoxy-benzyl)-N'-(4-hydroxyphenyl)-piperazine hydrochloride | 4.2 g | Cl.COC=1C=C(CN2CCN(CC2)C2=CC=C(C=C2)O)C=C(C1OC)OC | InChI=1S/C20H26N2O4.ClH/c1-24-18-12-15(13-19(25-2)20(18)26-3)14-21-8-10-22(11-9-21)16-4-6-17(23)7-5-16;/h4-7,12-13,23H,8-11,14H2,1-3H3;1H
